US07888364B2
To 5 g of methyl 2-chloro-4-nitrobenzoate in 100 mL of EtOH was added 20 g of Tin (II) Chloride in portions. The reaction was heated to 55° C. and monitored by TLC until complete. Solvent was concentrated and extraction was performed in Ethyl Acetate and water with TEA to reduce emulsions. The organic layer was dried over Magnesium Sulfate, filtered and concentrated to give 3.9 g of methyl 4-amino-2-chlorobenzoate. 1 g of methyl 4-amino-2-chlorobenzoate was cooled to 0° C. in DCM with 485 μL of Pyridine before Methanesulfonyl Chloride was added dropwise. The reaction was allowed to warm to room temperature and stir overnight. Solvent was concentrated and the crude material was dissolved in Ethyl Acetate and extracted with saturated bicarbonate 10′ solution and then brine. The crude material was dried over Magnesium Sulfate, filtered and concentrated to give 1.54 g of methyl 2-chloro-4-(methylsulfonamido)benzoate. 107 μL of 1-bromo-2-methoxyethane and 556 mg of Cesium Carbonate were added to 150 mg of methyl 2-chloro-4-(methylsulfonamido)benzoate in DMF and stirred at room temperature for 16 hours. The reaction mixture was extracted in Ethyl Acetate twice with saturated bicarbonate and once with brine, dried over Magnesium Sulfate, filtered and concentrated to give methyl 2-chloro-4-(N-(2-methoxyethyl)methylsulfonamido)benzoate. 182 mg of methyl 2-chloro-4-(N-(2-methoxyethyl)methylsulfonamido)benzoate was hydrolyzed via Procedure M to yield 169 mg of crude 2-chloro-4-(N-(2-methoxyethyl)methylsulfonamido)benzoic acid. 65 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(N-(2-methoxyethyl)methylsulfonamido)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(2-methoxyethyl)methylsulfonamido)benzamide. MS (Q1) 494 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 65 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-4-(N-(2-methoxyethyl)methylsulfonamido)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)N(S(=O)(=O)C)CCOC | C11H14ClNO5S
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(2-methoxyethyl)methylsulfonamido)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)N(S(=O)(=O)C)CCOC | C22H21Cl2N3O4S
